US07402608B2
To a stirred solution of diisopropyl amine (0.3 mL, 2.14 mmol) in THF (10 mL) was added n-BuMgCl (2.0 M in ether, 1.0 mL, 2.0 mol), stirred for 24 h. To the resultant solution was added drop wise a solution of 3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid methyl ester (0.189 g, 0.5 mmol) in THF (2.0 mL), stirred for 1 h at room temperature. It was then added a solution of Iodine (1.28 g, 5.0 mmol) in THF (2.0 mL), stirred for 1 h. Reaction mixture was then quenched with 10% aq Na2S2O3 solution, extracted with EtOAc, washed with brine, dried, and concentrated. Purification of the residue on small plug of silica gel bond elute using DCM/CHCl3/MeOH/Et3N (200:90:16:1) as eluent gave 5-iodo-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid methyl ester (0.250 g, quantitative). NMR 1H (CDCl3, 400 MHz): 7.05 (s, 1H), 4.68-4.55 (m, 1H), 3.83 (s, 3H), 2.95-2.8 (m, 2H), 2.26 (s, 3H), 2.2-1.1 (m, 14 H), 0.819 (d, J=6.3, 3H), 0.75-0.6 (m, 2H).

reactant | diisopropyl amine | 2.14 mmol, 0.3 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuMgCl | 2.0 mol, 2.0 M, 1.0 mL | C(CCC)[Mg]Cl
reactant | 3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.5 mmol, 0.189 g | COC(=O)C=1SC=CC1N(C1CCN(CC1)C)C(=O)[C@@H]1CC[C@H](CC1)C | C20H30N2O3S
reactant | Iodine | 5.0 mmol, 1.28 g | II | I2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
solvent | THF | 2.0 mL | C1CCOC1 | C4H8O
product | 5-iodo-3-[(trans-4-methyl-cyclohexanecarbonyl)-(1-methyl-piperidin-4-yl)-amino]-thiophene-2-carboxylic acid methyl ester | 0.250 g | COC(=O)C=1SC(=CC1N(C1CCN(CC1)C)C(=O)[C@@H]1CC[C@H](CC1)C)I | C20H29IN2O3S
